US08106064B2
3-{3-[5-Isopropyl-2,6-bis-(4-methoxy-benzyloxy)-pyrimidine-4-carbonyl]-phenyl}-acrylonitrile (113):
To a stirred mixture of 3-[5-isopropyl-2,6-bis-(4-methoxy-benzyloxy)-pyrimidine-4-carbonyl]-benzaldehyde (1.73 g, 3.22 mmol) and diethyl cyanomethylphosphonate (0.52 ml, 3.22 mmol) in anhydrous THF (10 ml) at 0° C. (ice bath) under nitrogen atmosphere, was added potassium t-butoxide (397 mg, 3.54 mmol). After 1 hr., the mixture was stirred for overnight at room temperature. The mixture was then partitioned between ether and water. The ether layer was taken, dried with anhydrous magnesium sulfate, filtered, and evaporated in vacuo to give a pale yellow syrup. The crude product was purified by silica gel column chromatography (eluent, EA:hexanes (2:7)) to afford 1.46 g (81%) of a pale yellow syrup. 1H NMR (200 MHz, CDCl3) δ 1.19 (6H, d, J=7.0 Hz), 2.86 (1H, m), 3.82 (3H, s), 3.85 (3H, s), 5.31 (2H, s), 5.46 (2H, s), 5.93 (1H, d J=16.8 Hz), 6.81-6.97 (4H, m), 7.28-7.93 (8H, m).

reactant | 3-[5-isopropyl-2,6-bis-(4-methoxy-benzyloxy)-pyrimidine-4-carbonyl]-benzaldehyde | 3.22 mmol, 1.73 g | C(C)(C)C=1C(=NC(=NC1OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)C(=O)C=1C=C(C=O)C=CC1 | C31H30N2O6
reactant | diethyl cyanomethylphosphonate | 3.22 mmol, 0.52 ml | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | potassium t-butoxide | 3.54 mmol, 397 mg | CC(C)([O-])C.[K+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-{3-[5-Isopropyl-2,6-bis-(4-methoxy-benzyloxy)-pyrimidine-4-carbonyl]-phenyl}-acrylonitrile | 1.46 g, 81% | C(C)(C)C=1C(=NC(=NC1OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)C(=O)C=1C=C(C=CC1)C=CC#N | C33H31N3O5
